US06503905B1
To a solution of 2-(5-bromo-pyridin-2-yl)-5-chloro-2-(3-methoxy-phenyl)-pentanenitrile (0.54 g, 1.43 mmol) in CH2Cl2 (3 mL) at −78° C. was added DIBAL in CH2Cl2 (1M, 3.2 mL). The reaction mixture was stirred at −78 for 1 h and at room temperature for 4 h. The solution was poured to a saturated aqueous solution of Rochelle's salt (10 mL) and the resulting mixture was stirred vigorously for 16 h. The aqueous layer was washed with CH2Cl2 (3×10 mL), and the combined extracts were dried over Na2SO4 and concentrated. Purification by flash chromatography with CH2Cl2/MeOH (10:1) yielded 0.36 g of 5-bromo-3′-(3-methoxy-phenyl)-1′,2′,3′,4′,5′,6′-hexahydro-[2,3′]bipyridinyl. 1HNMR (400 MHz, CDCl3) δ 8.62 (s, 1H), 7.63 (dd, 1H), 7.24-7.18(m, 1 H), 6.91 (d, 1H) 6.81-6.67 (comp, 3H), 3.96-3.90 (m, 1H), 3.75 (s, 3H), 3.09-3.00 (comp, 2H), 2.82-2.74 (m, 1H), 2.54-2.48 (m, 1H), 2.41-2.34 (m, 1H), 1.64-1.60 (m, 1H), 1.38-1.31 (m, 1H); MS (M+1) 347.1, 349.1.

reactant | 2-(5-bromo-pyridin-2-yl)-5-chloro-2-(3-methoxy-phenyl)-pentanenitrile | 1.43 mmol, 0.54 g | BrC=1C=CC(=NC1)C(C#N)(CCCCl)C1=CC(=CC=C1)OC | C17H16BrClN2O
reactant | DIBAL | CC(C)C[AlH]CC(C)C
reactant | Rochelle's salt | 10 mL | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1M, 3.2 mL | C(Cl)Cl | CH2Cl2
product | 5-bromo-3′-(3-methoxy-phenyl)-1′,2′,3′,4′,5′,6′-hexahydro-[2,3′]bipyridinyl | 0.36 g | BrC=1C=CC(=NC1)C1(CNCCC1)C1=CC(=CC=C1)OC | C17H19BrN2O
